US04032676
N-(2,3,4,5-tetrahydroxy-pentyl)-L-(+)-citrulline
The product was made from D-ribose and L-(+)-citrulline using Raney nickel as a catalyst and heating for 2 hours to 50° C. and for 4 hours to 70° C. The product obtained had a melting point of 172° to 175° C. (decomposition) and an RF -value of 0.52 (determined as indicated under Example T).

reactant | D-ribose | O=C[C@H](O)[C@H](O)[C@H](O)CO | C5H10O5
reactant | L-(+)-citrulline | N[C@@H](CCCNC(=O)N)C(=O)O | C6H13N3O3
catalyst | Raney nickel | [Ni] | Ni
product | N-(2,3,4,5-tetrahydroxy-pentyl)-L-(+)-citrulline | OC(CN[C@@H](CCCNC(=O)N)C(=O)O)C(C(CO)O)O | C11H23N3O7
